US07179822B2
Step (c): 4-(5-{3-[3-(4-fluorophenyl)prop-1-ynyl]phenyl}tetrazol-2-ylmethyl)benzene-sulfonic acid
A suspension of 4-[5-(3-bromophenyl)tetrazol-2-ylmethyl]benzenesulfonic acid, sodium salt (0.50 g, 1.27 mmol) in DMF (3 mL) was treated with diisopropylethylamine (0.88 mL, 5.1 mmol), palladium tetrakis(triphenylphosphine) (“Pd(PPh3)4”, 0.29 g, 0.25 mmol), CuI (cat), and 1-fluoro-4-prop-2-ynyl-benzene (0.42 g, 3.1 mmol), and the mixture degassed with nitrogen. The reaction mixture was heated in the microwave for 15 minutes at 100° C., cooled to room temperature, poured into 1N HCl, extracted with EtOAc, washed with brine, dried over MgSO4, and evaporated onto silica gel. The mesh was purified on a 3.5×15 cm silica gel column eluted with ethyl acetate (“EtOAc”)-methanol (“MeOH”) 4:1 with 1% acetic acid (“AcOH”). Evaporation and trituration with ether afforded 0.052 g of orange solid (8.26% yield) NMR (DMSO-d6); 8.03–7.99 (m, 1H), 7.61–7.51 (m, 6H), 7.46–7.42 (dd, 1H), 7.36–7.33 (d, 2H), 7.19–7.15 (t, 2H), 5.98 (s, 2H), 3.90 (s, 2H)

reactant | 4-[5-(3-bromophenyl)tetrazol-2-ylmethyl]benzenesulfonic acid | BrC=1C=C(C=CC1)C=1N=NN(N1)CC1=CC=C(C=C1)S(=O)(=O)O | C14H11BrN4O3S
reactant | sodium | 1.27 mmol, 0.50 g | [Na] | Na
reactant | diisopropylethylamine | 5.1 mmol, 0.88 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-fluoro-4-prop-2-ynyl-benzene | 3.1 mmol, 0.42 g | FC1=CC=C(C=C1)CC#C | C9H7F
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | palladium tetrakis(triphenylphosphine) | 0.25 mmol, 0.29 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
catalyst | CuI | [Cu]I
product | 4-(5-{3-[3-(4-fluorophenyl)prop-1-ynyl]phenyl}tetrazol-2-ylmethyl)benzene-sulfonic acid | 0.052 g, 8.26% yield | FC1=CC=C(C=C1)CC#CC=1C=C(C=CC1)C=1N=NN(N1)CC1=CC=C(C=C1)S(=O)(=O)O | C23H17FN4O3S
